US08735589B2
U.S. Pat. No. 4,997,841 discloses naratriptan, its salts and several processes for its preparation. One of the processes comprises reacting 5-bromoindole with 1-methylpiperidin-4-one by means of KOH in methanol at room temperature to give 5-bromo-3-(4-(hydroxy-1-methylpiperidin-4-yl)-1H-indole, which is condensed with N-methylvinylsulfonamide by means of palladium acetate and tri-p-tolyl phosphine in hot DMF to afford (E)-N-methyl-2-[3-(1-methyl-1,2,3,6-tetrahydropyridin-4-yl)-1H-indol-5-yl]vinylsulfonamide. Finally, this compound is hydrogenated with H2 over Pd/C to obtain naratriptan.

reactant | naratriptan | CNS(=O)(=O)CCC=1C=CC2=C(C1)C(=CN2)C3CCN(CC3)C | C17H25N3O2S
reactant | 5-bromoindole | BrC=1C=C2C=CNC2=CC1 | C8H6BrN
reactant | 1-methylpiperidin-4-one | CN1CCC(CC1)=O | C6H11NO
reactant | KOH | [OH-].[K+]
solvent | methanol | CO | CH4O
product | 4-(hydroxy-1-methylpiperidin-4-yl)-1H-indole | OC1N(CCC(C1)C1=C2C=CNC2=CC=C1)C | C14H18N2O
